US06130229
1,1-Dimethylethyl 4-[2-[4-(8-chloro-5,11-dihydro-[1]benzothiepino[4,3-b]pyridin-11-yl)-1-piperazinyl]2-oxoethyl]-1-piperidinecarboxylate
The title compound (563 mg) was prepared similarly from 1-(8-chloro-5,11-dihydro-[1]benzothiepino[4,3-b]pyridin-11-yl)-piperazine (400 mg, 1.21 mmol) and 1-(1,1-dimethylethoxycarbonyl)-4-piperidine-acetic acid (589 mg, 2.42 mmol); MS (CI, M+H)=557; HRMS: calc.: 557.2353; found: 557.2351.

reactant | 1-(8-chloro-5,11-dihydro-[1]benzothiepino[4,3-b]pyridin-11-yl)-piperazine | 1.21 mmol, 400 mg | ClC1=CC2=C(C(C3=NC=CC=C3CS2)N2CCNCC2)C=C1 | C17H18ClN3S
reactant | 1-(1,1-dimethylethoxycarbonyl)-4-piperidine-acetic acid | 2.42 mmol, 589 mg | CC(C)(OC(=O)N1CCC(CC1)CC(=O)O)C | C12H21NO4
product | 1,1-Dimethylethyl 4-[2-[4-(8-chloro-5,11-dihydro-[1]benzothiepino[4,3-b]pyridin-11-yl)-1-piperazinyl]2-oxoethyl]-1-piperidinecarboxylate | 563 mg | ClC1=CC2=C(C(C3=NC=CC=C3CS2)N2CCN(CC2)C(CC2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C1 | C29H37ClN4O3S
